US05455247
(iv) 2-(4-Piperidinyl)-8,8-dipropyl-2-azaspiro[4.5]-decane dihydrochloride
2-(4-Piperidinyl)-8,8-dipropyl-2-azaspiro[4.5]-decane was dissolved in a minimum of anhydrous ethanol and added to a cooled solution of hydrogen chloride in ethanol. On addition of a large volume of ether, a white precipitate formed which was isolated by filteration. The white solid was recrystallized from ethanol or methanol; mp 298°-300° C.; yield 85-90%.

reactant | 2-(4-Piperidinyl)-8,8-dipropyl-2-azaspiro[4.5]-decane | N1CCC(CC1)N1CC2(CC1)CCC(CC2)(CCC)CCC | C20H38N2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-Piperidinyl)-8,8-dipropyl-2-azaspiro[4.5]-decane dihydrochloride | yield 85-90% | Cl.Cl.N1CCC(CC1)N1CC2(CC1)CCC(CC2)(CCC)CCC | InChI=1S/C20H38N2.2ClH/c1-3-7-19(8-4-2)9-11-20(12-10-19)13-16-22(17-20)18-5-14-21-15-6-18;;/h18,21H,3-17H2,1-2H3;2*1H
